US04075001
An attempt at conversion by the method of Example IV, part D, was unsuccessful. Thus a mixture of 28 g of 3-amino-2-cyano-3-(dipropylamino)propenenitrile, 14.7 g of triethylamine and 100 ml of pyridine in a pressure bottle was cooled to -70° and 10 g of hydrogen sulfide were added. The bottle was capped and allowed to stand at ambient temperature during two days, then heated at 80° for about 16 hours. The mixture was concentrated under reduced pressure and the residue was dissolved in a minimum of toluene containing a trace of ethanol. The solid which separated on cooling was collected to obtain 9.6 g of 3-amino-2-cyano-3-(dipropylamino)propenethioamide, m.p. 141°-144°. The nmr spectrum was consistent with the assigned structure.

reactant | 3-amino-2-cyano-3-(dipropylamino)propenenitrile | 28 g | NC(=C(C#N)C#N)N(CCC)CCC | C10H16N4
reactant | triethylamine | 14.7 g | C(C)N(CC)CC | C6H15N
reactant | hydrogen sulfide | 10 g | S | H2S
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 3-amino-2-cyano-3-(dipropylamino)propenethioamide | 9.6 g | NC(=C(C(N)=S)C#N)N(CCC)CCC | C10H18N4S
